Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7]([H:8])(=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.24759255806
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:7],2.08294178944
[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.49974869022
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.0898378157699975
[H:1][C:2]=[C:3]=[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]#[C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2],7.45342024012
[C:1]#[C:2][C:3]([C:4]=[C:5]([H:6])[H:7])[O:8][H:9]>>[C:1]#[C:2][C:3][O:8][H:9].[C:4]=[C:5]([H:6])[H:7],3.78212144639
[H:1][O:2][C@@:3]1([H:4])[O:5][C:6]([H:7])([H:8])[C:9]1[H:10]>>[H:1][O:2]/[C:3]([H:4])=[C:9](/[C:6]([O:5])([H:7])[H:8])[H:10],0.0784196279601
[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],-3.81021200477
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:11]/[C:12]([H:13])([H:14])[H:15],1.7369270638999998
[H:1][C:2]([C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],3.3993836139099995
[H:1][C:2]#[C:3][C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-2.93914724214
[H:1][C:2]([H:3])([H:4])[C:5]#[C:8][O:7][C:6]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6]1\[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.706506106981
[C:11]([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-5.16366347661
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2],1.66497716747
[H:14].[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.52953950833
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:12][H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.19279844185
[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-6.05328583273
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],4.004447281569998
[H:1][C:2]#[C:3][O:4][C:5]=[C:7]([H:8])[H:9].[H:6]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-5.04903928065
[H:1][O:2][C:3](=[C:4][H:5])[C:10]([C:9]=[C:6]([H:7])[H:8])([H:11])[H:12]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]1([H:11])[H:12],-1.64606968937
[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.2501391611
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[H:8].[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7]/[O:9][C:10]([H:11])[H:12],4.58446000944
[C:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[C:1][O:2][C:3]=[C:4]=[O:5].[C:6]([H:7])([H:8])[H:9],0.592079093949
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[C:8]([H:9])([H:10])=[C:11][H:12].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7],1.19073365638
[O:1][C:2]([H:3])([H:4])[C:5]=[C:6]=[O:7]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6].[O:7],7.723507492289999
[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[H:4].[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],2.87831769718
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10]/[O:11][H:12],2.99184055917
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],1.46538886051
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3](=[C:4])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.91964110684
